US03968168
1-p-tert-Butylphenyl-2,2,2-trichloroethanol
A solution of 22 g (0.15 mole) of chloral and 15g of tert-butylbenzene was added in ten portions alternatively with 4.4g (0.03 mole) of aluminum chloride to a 120g portion of tert-butylbenzene with vigorous stirring at 5°C. The mixture was stirred at 20°C. for 0.5 hr. and again cooled to 5°C. before 40 ml of 6N HCl was added dropwise. The mixture was diluted with 20 ml of water and the organic products were extracted into ethyl ether (2 × 100 ml). The etheral solution was washed with 5% HCl, water, aqueous sodium carbonate and brine, dried over magnesium sulfate and concentrated. A 27g portion of the 33g residue was distilled via short path to provide 18.4g of a colorless, viscous product: Bp 144°C (0.2mm); ir (film) 2.85 (s), 3.4 (s), 9.4 (s), 12.1 (s), 12.8 (s) microns; nmr (CDCl3) 7.40 (4H, m), 5.06 (1H,s), 3.56 (1H, s), 1.28 (9H, s) ppm.

reactant | chloral | 0.15 mole, 22 g | O=CC(Cl)(Cl)Cl | C2HCl3O
reactant | tert-butylbenzene | C(C)(C)(C)C1=CC=CC=C1 | C10H14
reactant | aluminum chloride | 0.03 mole, 4.4g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | HCl | 6N, 40 ml | Cl | ClH
solvent | water | 20 ml | O | H2O
product | 1-p-tert-Butylphenyl-2,2,2-trichloroethanol | C(C)(C)(C)C1=CC=C(C=C1)C(C(Cl)(Cl)Cl)O | C12H15Cl3O
